US09353038B2
Preparation of fluoromethyl 1,1,1,3,3-pentafluoro-2-propenyl ether (CF3C(═CF2)OCH2F)
In a reaction similar to Example 1a, about 30.0 grams of sevoflurane (0.15 mols) was placed in a 250-mL 3-neck flask under nitrogen, and cooled in a dry ice-acetone bath to about −0.1° C. Approximately 50 mL of a 3.0 M solution of CH3Li/CH2(OC2H5)2 (0.15 mols of the base) was added to the sevoflurane over about 2 hours and 38 minutes while maintaining a reaction temperature between about −8° C. and about +9° C. A violent, exothermic reaction was observed. The reaction mixture was then stirred at about −2° C. to about +6° C. for an additional 30 minutes. A vacuum (3.3 mm Hg) applied to the reaction mixture for approximately 2 hours, 17 minutes while the reaction mixture was held at a temperature between about −30° C. and about −17° C. yielded about 17.9 grams of a crude liquid product. The crude liquid contained 17.9% sevoflurane compound A, 70.6% CH2(OC2H5)2, and other side products.

reactant | sevoflurane | C(OC(C(F)(F)F)C(F)(F)F)F | C4H3F7O
reactant | CH2(OC2H5)2 | C(OCC)OCC | C5H12O2
product | fluoromethyl 1,1,1,3,3-pentafluoro-2-propenyl ether | FC(C(=C(F)F)OCF)(F)F | C4H2F6O
